US04357351
1-sec-heptyl-3-n-hexyl-2-S-ethylisothiourea (Intermediate)
The equipment, procedure and reactants were the same as in Example 31 with the exception that 10.01 g (0.07 mole) of n-hexylisothiocyanate, 8.05 g (0.07 mole) 2-aminoheptane, 35 ml ethanol 2B, 11.7 g (0.075 mole) ethyl iodide, 200 ml of toluene and a one percent solution sodium hydroxide (0.08 mole) were used as reactants and reagents in the procedure. The reaction produced 19.6 g (98 weight percent of theory yield of a clear liquid having a nD30 of 1.4765. The product was identified as the title product by IR and NMR spectra analyses.

reactant | n-hexylisothiocyanate | 0.07 mole, 10.01 g | C(CCCCC)N=C=S | C7H13NS
reactant | 2-aminoheptane | 0.07 mole, 8.05 g | NC(C)CCCCC | C7H17N
reactant | ethyl iodide | 0.075 mole, 11.7 g | C(C)I | C2H5I
reactant | sodium hydroxide | 0.08 mole | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 1-sec-heptyl-3-n-hexyl-2-S-ethylisothiourea | C(C)(CCCCC)NC(SCC)=NCCCCCC | C16H34N2S
